US09315530B2
Step 4: (2-(2-(2-(2-(4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy)ethoxy)ethoxy)ethyl)phosphonic acid
To a solution of diethyl (2-(2-(2-(2-(4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy)ethoxy)ethoxy)ethyl)phosphonate (1 equiv.) in CH2Cl2 (0.10 M) at 0° C. was slowly added trimethylsilyl bromide (10 equiv.). After 1 h the ice-bath was removed and the reaction mixture was allowed to stir at 22° C. for 18 h. At this point the volatiles were removed in vacuo and the resulting residue was purified by Reverse Phase-HPLC using a 20-90% 0.5 mM NH4OAc (in MeCN) to 10 mM NH4OAc (in water) gradient to deliver the title compound (26%) as a solid.

reactant | diethyl (2-(2-(2-(2-(4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy)ethoxy)ethoxy)ethyl)phosphonate | 1 equiv. | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCOCCOCCP(OCC)(OCC)=O)COCC | C25H39N4O7P
reactant | trimethylsilyl bromide | 10 equiv. | C[Si](C)(C)Br | C3H9BrSi
solvent | CH2Cl2 | 0.10 M | C(Cl)Cl | CH2Cl2
product | (2-(2-(2-(2-(4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy)ethoxy)ethoxy)ethyl)phosphonic acid | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCOCCOCCP(O)(O)=O)COCC | C21H31N4O7P
